US04904675
Dihexadecyl isoquinoline-1,4-dicarboxylate
Isoquinoline-1,4-dicarboxylic acid (1.8 g, 5 mmol) is refluxed in 10 ml of thionyl chloride for 2 h. The solution is evaporated to dryness and the residue dissolved in 20 ml of dichloromethane. The latter solution is added dropwise to a mixture of 1-hexadecanol (2.90 g, 12 mmol) in 1 ml of pyridine. After 19 h at room temperature, the precipitate is filtered off and the filtrate is evaporated to dryness. The resulting residue is crystallized in toluene/ethanol. The crystals obtained are purified by silica gel flash-column chromatography (dichloromethane). Thus the title compound, m.p. 80.7°-81.4°, is obtained.

reactant | Isoquinoline-1,4-dicarboxylic acid | 5 mmol, 1.8 g | C1(=NC=C(C2=CC=CC=C12)C(=O)O)C(=O)O | C11H7NO4
reactant | 1-hexadecanol | 12 mmol, 2.90 g | C(CCCCCCCCCCCCCCC)O | C16H34O
solvent | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | Dihexadecyl isoquinoline-1,4-dicarboxylate | C1(=NC=C(C2=CC=CC=C12)C(=O)OCCCCCCCCCCCCCCCC)C(=O)OCCCCCCCCCCCCCCCC | C43H71NO4
